US09447118B2
(1S,4S,5S)-4-Bromo-6-oxabicyclo[3.2.1]octan-7-one (200 g) was added to ethyl acetate (1000 ml), and the obtained solution was then cooled to 5° C. Thereafter, a 50% dimethylamine aqueous solution (305.7 ml) was added to the reaction solution, and the obtained mixture was then stirred for 14 hours. Thereafter, a mixed solution of citric acid (131.17 g), common salt (92.00 g) and water (324 ml) was added to the reaction solution, and the obtained mixture was then heated to 30° C. The reaction solution was stirred for 30 minutes, and thereafter, it was left at rest, so that the organic layer was separated. Further, the aqueous layer was extracted with ethyl acetate (800 ml) again. The organic layers were gathered, and the gathered organic layer was then concentrated to 1000 ml. Water (400 ml) was added to the concentrated solution, and the thus mixed solution was concentrated again to obtain an aqueous solution (500 ml) of (1S,3S,4S)-3-hydroxy-4-bromo-N,N-dimethylcyclohexanecarboxamide. To this aqueous solution (500 ml), a 28% ammonia aqueous solution (1247 ml) and a 25% sodium hydroxide aqueous solution (123 ml) were added, and the obtained solution was then heated to 40° C., followed by stirring the reaction solution for 6 hours. Thereafter, the reaction solution was concentrated to 1000 ml to obtain an aqueous solution containing the title compound (147.52 g, yield: 81%).

reactant | (1S,4S,5S)-4-Bromo-6-oxabicyclo[3.2.1]octan-7-one | 200 g | Br[C@H]1CC[C@@H]2C(O[C@H]1C2)=O | C7H9BrO2
reactant | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
reactant | dimethylamine | 305.7 ml | CNC | C2H7N
reactant | citric acid | 131.17 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 324 ml | O | H2O
product | (1S,3S,4S)-3-hydroxy-4-bromo-N,N-dimethylcyclohexanecarboxamide | 500 ml | O[C@H]1C[C@H](CC[C@@H]1Br)C(=O)N(C)C | C9H16BrNO2
